US09216173B2
Toluene (27 mL), sodium tert-butoxide (0.925 g, 9.63 mmol), and benzophenone imine (1.75 g, 9.63 mmol) were added to 2,6-dichloro-4-methylpyridine (1.3 g, 8.0 mmol). The flask was purged with argon 3 times before 2-dicyclophenylphosphino-2′-(N,N-dimethylamino)biphenyl (0.474 g, 1.20 mmol) and Pd2(dba)3 (0.367 g, 0.401 mmol) were added. The flask was purged 3 times with argon, sealed, and heated to 80° C. After 16 hours, the reaction mixture was cooled to room temperature, diluted with water, and extracted with DCM. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-40% acetone/hexanes, linear gradient) to afford 6-chloro-N-(diphenylmethylidene)-4-methylpyridin-2-amine. 1H NMR (500 MHz, CDCl3) δ 7.83-7.73 (m, 2H), 7.49 (t, J=7.6 Hz, 2H), 7.44-7.34 (m, 2H), 7.34-7.27 (m, 2H), 7.21-7.12 (m, 2H), 6.72 (s, 1H), 6.27 (s, 1H), 2.15 (s, 3H).

reactant | sodium tert-butoxide | 9.63 mmol, 0.925 g | CC(C)([O-])C.[Na+]
reactant | benzophenone imine | 9.63 mmol, 1.75 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 2,6-dichloro-4-methylpyridine | 8.0 mmol, 1.3 g | ClC1=NC(=CC(=C1)C)Cl | C6H5Cl2N
catalyst | Pd2(dba)3 | 0.401 mmol, 0.367 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 27 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-N-(diphenylmethylidene)-4-methylpyridin-2-amine | ClC1=CC(=CC(=N1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C19H15ClN2
